US07846956B2
23.82 g of ethyl 5-(t-butyldimethylsilanyloxymethyl)-isoxazole-3-carboxylate was dissolved in 100 ml of ethanol, and 3.16 g of sodium borohydride was then added. The mixture was stirred at room temperature for 4 hours. After 50 ml of water was added, the reaction mixture was concentrated to 50 ml under reduced pressure. The concentrated solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 18.74 g of [5-(t-butyldimethylsilanyloxymethyl)isoxazol-3-yl]methanol.

reactant | ethyl 5-(t-butyldimethylsilanyloxymethyl)-isoxazole-3-carboxylate | 23.82 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NO1)C(=O)OCC | C13H23NO4Si
reactant | sodium borohydride | 3.16 g | [BH4-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [5-(t-butyldimethylsilanyloxymethyl)isoxazol-3-yl]methanol | 18.74 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NO1)CO | C11H21NO3Si
